US20010014691A1
5-(3-Chloropropoxy)-3-isopropoxypyridine
Under a nitrogen atmosphere, a solution of 5-isopropoxypyridin-3-ol (1.04 g, 6.80 mmol) in DMF (10 mL) was slowly added over 10 min to a cold (0-5° C.), stirring slurry of sodium hydride (0.25 g of an 80% dispersion in mineral oil, 8.33 mmol) in DMF (15 mL). The mixture was allowed to warm to ambient temperature and further stirred for 1 h. To this slurry was added drop-wise over 5 min, 1-chloro-3-iodopropane (1.67 g, 8.16 mmol), and the resulting dark brown mixture was stirred at ambient temperature for 4 h. Cold water (25 mL) was carefully added, followed by saturated NaCl solution (25 mL). The resulting mixture was extracted with ether (4×50 mL). The combined ether extracts were dried (MgSO4), filtered, and concentrated by rotary evaporation producing a dark-brown oil (0.92 g, 59.0%).

reactant | 5-isopropoxypyridin-3-ol | 6.80 mmol, 1.04 g | C(C)(C)OC=1C=C(C=NC1)O | C8H11NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-3-iodopropane | 8.16 mmol, 1.67 g | ClCCCI | C3H6ClI
reactant | NaCl | 25 mL | [Na+].[Cl-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | 5-(3-Chloropropoxy)-3-isopropoxypyridine | 0.92 g, 59.0% | ClCCCOC=1C=C(C=NC1)OC(C)C | C11H16ClNO2
